US06355642B1
2a-[4-(4-Hydroxy-4-phenylpiperidyl)butyl]-1-methyl-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one
A mixture of 2a-(4-bromobutyl)-1-methyl-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one (322 mg, 1 mmol), 4-hydroxy-4-phenylpiperidine (210 mg, 1.2 mmol), sodium bicarbonate (102 mg, 1.2 mmol) and ethanol (15 ml) was heated under reflux for 6.3 hours on an oil bath, the reaction solution was cooled, and the thus precipitated crystals were collected by filtration to obtain 226 mg of the title compound (0.54 mmol, 54% in yield).

reactant | 2a-(4-bromobutyl)-1-methyl-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 1 mmol, 322 mg | BrCCCCC12C(N(C=3C=CC=C(C13)CCC2)C)=O | C16H20BrNO
reactant | 4-hydroxy-4-phenylpiperidine | 1.2 mmol, 210 mg | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | sodium bicarbonate | 1.2 mmol, 102 mg | C([O-])(O)=O.[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2a-[4-(4-Hydroxy-4-phenylpiperidyl)butyl]-1-methyl-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 0.54 mmol, 226 mg, 54% | OC1(CCN(CC1)CCCCC12C(N(C=3C=CC=C(C13)CCC2)C)=O)C2=CC=CC=C2 | C27H34N2O2
